US07449475B2
(ii) 5-Fluoro-3H-spiro[1-benzofuran-2,4′-piperidine]
Ethyl chloroformate (65.6 mg, 0.604 mmol) was added to a solution of 1′-benzyl-5-fluoro-3H-spiro[1-benzofuran-2,4′-piperidin](150 mg, 0.504 mmol) in toluene (2 mL) and the reaction mixture was refluxed overnight. The reaction mixture was cooled to room temperature, diluted by addition of toluene, washed successively with aqueous NaHCO3 and H2O. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was dissolved in ethanol (3.5 mL), aqueous KOH (800 mg, KOH in 0.8 mL H2O) was added and the reaction mixture was stirred at reflux temperature overnight, cooled to room temperature, ethanol was removed in vacuo. Aqueous layer was extracted with Et2O, combined ether layer was washed with 3N aqueous HCl. Combined aqueous layer was made pH 10 by addition of aqueous NaOH. The basic solution was extracted with ethyl acetate. The combined organic layer was washed with H2O, dried over Na2SO4, filtered and concentrated. The residue was purified by HPLC (10-55% CH3CN in H2O, 0.1% NH4OH) to give the titled compound (49 mg).

reactant | Ethyl chloroformate | 0.604 mmol, 65.6 mg | ClC(=O)OCC | C3H5ClO2
reactant | 1′-benzyl-5-fluoro-3H-spiro[1-benzofuran-2,4′-piperidin] | 0.504 mmol, 150 mg | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C=C(C=C1)F | C19H20FNO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Fluoro-3H-spiro[1-benzofuran-2,4′-piperidine] | 49 mg | FC=1C=CC2=C(CC3(CCNCC3)O2)C1 | C12H14FNO
